US08034812B2
Production of N-[6-(3{[(methylsulfonyl)acetyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.323 mmol), (methylsulfonyl)acetic acid (67 mg, 0.485 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (99 mg, 0.517 mmol), 1-hydroxybenzotriazole (71 mg, 0.522 mmol), triethylamine (0.08 mL, 0.549 mmol) and N,N-dimethylformamide (4.0 mL), and by a reaction in the same manner as in Example 187, the title compound (87 mg, 63%) was obtained as pale-yellow crystals.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.323 mmol, 100 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | (methylsulfonyl)acetic acid | 0.485 mmol, 67 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.517 mmol, 99 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.522 mmol, 71 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.549 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(3{[(methylsulfonyl)acetyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 87 mg, 63% | CS(=O)(=O)CC(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C19H19N5O5S
